US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 4-fluoro-3-pyrimidin-4-yl-phenylboronic acid (61 mg, 0.28 mmol) as described in Example 7 part g), affording 5-(4-fluoro-3-pyrimidin-4-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine (20 mg, 25%). δH (360 MHz, CDCl3) 7.46 (1H, dd, J 8.4 and 11.2), 7.60-7.64 (2H, m), 7.85 (1H, d, J 8.8), 7.96-7.98 (1H, m), 8.42 (1H, dd, J 2.5 and 7.4), 8.53 (1H, d, J 8.4), 8.87 (1H, d, J 5.3), 9.30 (1H, s), 9.31 (1H, s). m/z (ES+) 371 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 4-fluoro-3-pyrimidin-4-yl-phenylboronic acid | 0.28 mmol, 61 mg | FC1=C(C=C(C=C1)B(O)O)C1=NC=NC=C1 | C10H8BFN2O2
product | 5-(4-fluoro-3-pyrimidin-4-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine | 20 mg, 25% | FC1=C(C=C(C=C1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F)C1=NC=NC=C1 | C19H10F4N4
